US07176201B2
3′-Methoxybiphenyl-3-carboxylic acid amide.
To a stirred mixture 3-bromobenzoic acid amide (0.76 g; 3.8 mmol) and toluene (25 mL), Pd(PPh3)4 (0.180 g; 0.16 mmol), a solution of Na2CO3 (2.543 g; 24 mmol) in H2O (10 mL), and one of 3-methoxyphenylboronic acid (1.132 g; 7.45 mmol) in EtOH (10 mL) were added. The mixture was refluxed for 1 h under vigorous stirring, cooled, and the acqueous phase extracted with AcOEt. The combined organic layers were dried over Na2SO4 and concentrated. Purification of the residue by column chromatography (cyclohexane/EtOAc 1:1 then 4:6) and recrystallization gave the desired product (0.64 g) as white solid. Yield 74%. Mp: 138–40° C. (EtOH). MS (EI): m/z 227 (M+, 100%). 1H NMR (CDCl3): δ 3.88 (s, 3H); 5.71 (br s, 1H); 6.11 (br s, 1H); 6.94 (m, 1H); 7.18 (m, 2H); 7.39 (t, 1H); 7.53 (t, 1H); 7.77 (m, 2H); 8.05 (t, 1H) ppm. IR (Nujol): 3327, 3148, 1676, 1640, 1613, 1584 cm−1.

reactant | 3-bromobenzoic acid amide | 3.8 mmol, 0.76 g | BrC=1C=C(C(=O)N)C=CC1 | C7H6BrNO
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 24 mmol, 2.543 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-methoxyphenylboronic acid | 7.45 mmol, 1.132 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
solvent | H2O | 10 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.16 mmol, 0.180 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-Methoxybiphenyl-3-carboxylic acid amide | 0.64 g, Yield 74% | COC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)N | C14H13NO2
